US07858640B2
[2-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of [3-(4-ethanesulfonylbenzyl)-8-fluoro-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic acid methyl ester (0.33 g), N,N-dimethylformamide (5.0 mL), potassium carbonate (0.16 g) and acetic acid chlorodifluoromethyl ester (1.2 mL) was stirred at 70° C. for 3 days. The mixture was diluted with saturated aqueous ammonium chloride solution, extracted with ethyl acetate and the combined extracts washed with saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with dichloromethane gave title as a white solid, 0.10 g.

reactant | [3-(4-ethanesulfonylbenzyl)-8-fluoro-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic acid methyl ester | 0.33 g | COC(COC1=C2C(=C(C(NC2=C(C=C1)F)=O)CC1=CC=C(C=C1)S(=O)(=O)CC)C)=O | C22H22FNO6S
reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid chlorodifluoromethyl ester | 1.2 mL | ClC(F)(F)OC(C)=O | C3H3ClF2O2
solvent | ammonium chloride | [Cl-].[NH4+]
product | [2-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)OC(F)F)CC1=CC=C(C=C1)S(=O)(=O)CC)C)=O | C23H22F3NO6S
